US04954498
2-(4-Pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]-quinolin-6-one.
22.7 g. (85 mmole) of the above amide were slowly introduced at 5° C. into 120 ml. 65% nitric acid. The reaction mixture was further stirred at 25° C. for 1 hour, poured on to ice and filtered off with suction. The residue was purified over silica gel (elution agent: methylene chloride/methanol saturated with ammonia; 95:5 v/v) to give 2.4 g. (10% of theory) 6-isonicotinoylamino-7-nitro-1,2,3,4-tetrahydroquinolin-2-one; m.p. 285 -288° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 6-isonicotinoylamino-7-nitro-1,2,3,4-tetrahydroquinolin-2-one | C(C1=CC=NC=C1)(=O)NC=1C=C2CCC(NC2=CC1[N+](=O)[O-])=O | C15H12N4O4
product | 2-(4-Pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]-quinolin-6-one | N1=CC=C(C=C1)C1=NC=2C(=CC=3CCC(NC3C2)=O)N1 | C15H12N4O
